US07256288B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenazinecarboxamide
Prepared in analogy to the method for Example 1 starting from 236 mg of phenazine-2-carboxylic acid and 200 mg of 3-aminoquinuclidine dihydrochloride. 84 mg (25% yield) of the free base were obtained after chromatographic separation.

reactant | phenazine-2-carboxylic acid | 236 mg | C1=C(C=CC2=NC3=CC=CC=C3N=C12)C(=O)O | C13H8N2O2
reactant | 3-aminoquinuclidine dihydrochloride | 200 mg | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenazinecarboxamide | 84 mg, 25% yield | N12CC(C(CC1)CC2)NC(=O)C2=CC1=NC3=CC=CC=C3N=C1C=C2 | C20H20N4O
